US07605163B2
(e) 5-Cyclopropanesulfonyl-2-isopropoxy-benzoic acid
To 0.6 mmol 5-cyclopropanesulfonyl-2-hydroxy-benzoic acid methyl ester, 3.7 mmol 2-propanol and 0.9 mmol diphenyl-2-pyridylphosphine in 8 ml THF was added 0.9 mmol di-tert-butyl azodicarboxylate, and the mixture was stirred at RT for 3 h. 4 mmol 5 M aq NaOH solution was then added, and the mixture heated at 60° C. for 1 h. The mixture was then concentrated in vacuo. The residue was resuspended in ethyl acetate and washed twice with 1 M aq NaOH solution. The combined aqueous phases were then acidified to pH 1 by addition of 25% aq HCl and extracted three times with ethyl acetate. The combined organic extracts were then dried with Na2SO4, and concentrated in vacuo to afford the title compound. MS (m/e): 282.9 ([M−H]−, 100%)

reactant | 5-cyclopropanesulfonyl-2-hydroxy-benzoic acid methyl ester | 0.6 mmol | COC(C1=C(C=CC(=C1)S(=O)(=O)C1CC1)O)=O | C11H12O5S
reactant | 2-propanol | 3.7 mmol | CC(C)O | C3H8O
reactant | diphenyl-2-pyridylphosphine | 0.9 mmol | C1(=CC=CC=C1)P(C1=NC=CC=C1)C1=CC=CC=C1 | C17H14NP
reactant | di-tert-butyl azodicarboxylate | 0.9 mmol | N(=NC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18N2O4
reactant | NaOH | 4 mmol, 5 M | [OH-].[Na+]
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | 5-Cyclopropanesulfonyl-2-isopropoxy-benzoic acid | C1(CC1)S(=O)(=O)C=1C=CC(=C(C(=O)O)C1)OC(C)C | C13H16O5S
